### ISSUE TITLE
Gallery integrity: erdos-452 known_lower_bound axiom is inconsistent (derives False at x=3)

### ISSUE THREAD

**Issue by rjwalters** [rjwalters/lean-genius#41028]
## Integrity Issue

**Proof**: erdos-452 (`proofs/Proofs/Erdos452Problem.lean`)
**Severity**: CRITICAL — a declared axiom is *false*, so the file's logical system is inconsistent (`False` is kernel-derivable). Anything can be "proved" from it, including `erdos_452_summary`.

## The false axiom

```lean
axiom known_lower_bound (x : ℕ) (hx : x ≥ 3) :
    ∃ a b : ℕ, validInterval x a b ∧
      (intervalLength a b : ℝ) ≥ Real.log x / (Real.log (Real.log x))^2
```

with

```lean
def validInterval (x : ℕ) (a b : ℕ) : Prop :=
  x ≤ a ∧ b ≤ 2 * x ∧ a ≤ b ∧ ∀ n, a ≤ n → n ≤ b → satisfiesCondition n
def intervalLength (a b : ℕ) : ℕ := b - a + 1
```

`validInterval x a b` forces `x ≤ a` and `b ≤ 2*x`, so `intervalLength a b = b - a + 1 ≤ x + 1`.
The axiom instantiated at **x = 3** therefore demands an interval inside `[3, 6]` (max length **4**) whose
length is `≥ Real.log 3 / (Real.log (Real.log 3))^2 ≈ 1.0986 / 0.094² ≈ 124`.

No such interval exists ⇒ the axiom is false. The asymptotic bound `log x/(log log x)²` is only meaningful
for large `x`; asserting it for **all** `x ≥ 3` (it also fails at x=4, 5) is the bug.

## Kernel-verified proof of False (only this axiom is used)

```lean
import Proofs.Erdos452Problem
open Erdos452
theorem inconsistent : False := by
  obtain ⟨a, b, hv, hlen⟩ := known_lower_bound 3 (by norm_num)
  obtain ⟨ha, hb, hab, _⟩ := hv
  have hb6 : b ≤ 6 := by simpa using hb
  have hlen_le : (intervalLength a b : ℝ) ≤ 4 := by
    have : intervalLength a b ≤ 4 := by unfold intervalLength; omega
    exact_mod_cast this
  set L := Real.log 3 with hL
  have hL_pos : 0 < L := Real.log_pos (by norm_num)
  have h3e : Real.exp 1 < 3 := by have := Real.exp_one_lt_d9; linarith
  have hL_gt1 : 1 < L := by
    have : Real.log (Real.exp 1) < Real.log 3 := Real.log_lt_log (Real.exp_pos 1) h3e
    simpa using this
  have h3exp15 : (3:ℝ) < Real.exp 1.5 := by
    have e1 : (2.7:ℝ) < Real.exp 1 := by have := Real.exp_one_gt_d9; linarith
    have e05 : (1.5:ℝ) ≤ Real.exp 0.5 := by have := Real.add_one_le_exp (0.5:ℝ); linarith
    have heq : Real.exp 1.5 = Real.exp 1 * Real.exp 0.5 := by rw [← Real.exp_add]; norm_num
    rw [heq]; nlinarith [Real.exp_pos 1, Real.exp_pos 0.5]
  have hL_lt : L < 1.5 := by
    have : Real.log 3 < Real.log (Real.exp 1.5) := Real.log_lt_log (by norm_num) h3exp15
    simpa using this
  have hlogL_pos : 0 < Real.log L := Real.log_pos hL_gt1
  have hlogL_lt : Real.log L < L - 1 := Real.log_lt_sub_one_of_pos hL_pos (by linarith)
  have hsq : (Real.log L)^2 < (L-1)^2 := by apply sq_lt_sq' (by linarith) hlogL_lt
  have hsq2 : (L-1)^2 < 0.25 := by nlinarith
  have h4 : 4 * (Real.log L)^2 < L := by nlinarith
  have hlogLsq_pos : 0 < (Real.log L)^2 := by positivity
  have hRHS : 4 < L / (Real.log L)^2 := by rw [lt_div_iff₀ hlogLsq_pos]; linarith
  have hcast : ((3:ℕ):ℝ) = (3:ℝ) := by norm_num
  rw [hcast, ← hL] at hlen
  linarith
-- #print axioms inconsistent
-- 'inconsistent' depends on axioms: [propext, Classical.choice, known_lower_bound, Quot.sound]
```

Compiles clean against the current file (mathlib rev in `proofs/lakefile.toml`).

## Recommended Fix

The axiom must not claim the bound for small `x`. Options (any one):

1. **Guard with a threshold** so the asymptotic regime holds, e.g. require `x ≥ x₀` for a concrete `x₀`
   large enough that `log x/(log log x)² ≤ x + 1` (e.g. `x ≥ 16` is safe; the crossover is small).
2. **State the honest `(1+o(1))` form** as an eventually-true statement:
   `∃ N, ∀ x ≥ N, ∃ a b, validInterval x a b ∧ (intervalLength a b : ℝ) ≥ Real.log x / (Real.log (Real.log x))^2`.
3. Weaken the RHS to a form that also holds for small `x`.

`erdos_452_summary` (which bundles `known_lower_bound`) and the meta `assumptions`/`proofStrategy` text
("CRT lower bound … for x ≥ 3") must be updated to match whichever fix is chosen.

## Secondary (LOW) note

`meta.json` `originalContributions` lists an **"omega_primorial axiom"** and "primorial definition and
omega_primorial axiom" — there is no `omega_primorial` axiom (nor any axiom about the primorial) in the
file. Only 4 axioms exist: `erdos_1937_density`, `maxValidIntervalLength`, `prime_gap_constraint`,
`known_lower_bound` (axiomCount=4 is otherwise correct). Drop the phantom `omega_primorial` mention.
Also: 4 `native_decide` uses (lines 114–123) are in anonymous `example`s (trust-neutral, not propagated),
so no disclosure change is required.

---
Discovered during gallery integrity audit.
